US05167949
c) 4-Amino-2-[(4-methoxyphenoxy)methyl]pteridine
Obtained using the procedure described in section c of Example 2, starting with 9.8 g (0.082 mole) of 3-amino-2-pyrazinecarbonitrile and the above solution of 2-(3-methoxyphenoxy)acetamidine in absolute ethanol. Refluxing time: 2 hours. Yld: 5.5 g (24%), m.p. 238°-240° C. (ethanol/N,N-dimethylformamide).

reactant | 3-amino-2-pyrazinecarbonitrile | 0.082 mole, 9.8 g | NC=1C(=NC=CN1)C#N | C5H4N4
reactant | 2-(3-methoxyphenoxy)acetamidine | COC=1C=C(OCC(=N)N)C=CC1 | C9H12N2O2
reactant | ethanol N,N-dimethylformamide | C(C)O.CN(C=O)C
solvent | ethanol | C(C)O | C2H6O
product | 4-Amino-2-[(4-methoxyphenoxy)methyl]pteridine | NC1=NC(=NC2=NC=CN=C12)COC1=CC=C(C=C1)OC | C14H13N5O2
